US07432284B2
Sodium hydride (15 mg, 61% dispersion in mineral oil, 0.38 mmol) was placed in a flame dried flask, then washed with hexanes to remove mineral oil, and finally suspended in DMF (0.3 mL) under an atmosphere of N2. A solution of 2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (54 mg in 0.2 mL DMF, 0.19 mmol) was added at room temperature to give a bright yellow reaction mixture. After five minutes, allyl iodide (0.055 mL, 0.6 mmol) was added. The reaction was stirred for 1.5 hours, then partitioned between EtOAc/H2O. The organic phase was washed twice with water, dried over MgSO4, filtered and then evaporated under vacuum. The crude product was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 10:1 hexane-EtOAc. The product band at Rf 0.45-0.55 was eluted with 5% MeOH in CH2Cl2 and concentrated under vacuum to give 2-allyl-2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one as an oil.

reactant | Sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
reactant | 2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 0.19 mmol, 0.2 mL, 54 mg | C(CCC)C1C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O | C15H18ClFO2
reactant | allyl iodide | 0.6 mmol, 0.055 mL | C(C=C)I | C3H5I
product | 2-allyl-2-butyl-5-chloro-7-fluoro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | C(C=C)C1(C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O)CCCC | C18H22ClFO2
